US08748434B2
b) 3-(Morpholine-4-sulfonyl)-5-trifluoromethyl-benzoic acid methyl ester
To an ice-cold solution of methyl 3-(chlorosulfonyl)-5-(trifluoromethyl)benzoate (1.0 g, 3.3 mmol, Buttpark Ltd.) in dichloromethane (10 mL) was added N-ethyldiisopropylamine (854 mg, 1.15 mL, 6.61 mmol) and morpholine (317 mg, 317 μL, 3.63 mmol). The reaction mixture was stirred at room temperature for 2 hours, poured on 10% aqueous sodium bicarbonate solution (100 mL) and dichloromethane (100 mL) and the layers were separated. The aqueous layer was extracted a second time with dichloromethane (100 mL). The organic layers were washed with brine (100 mL), dried over magnesium sulfate, filtered and concentrated under vacuum. The compound was purified by silica gel chromatography on a 20 g column using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate (100:0 to 35:65). Off-white solid (1.04 g, 89%). MS (EI): m/z=353.087 ([M]).

reactant | methyl 3-(chlorosulfonyl)-5-(trifluoromethyl)benzoate | 3.3 mmol, 1.0 g | ClS(=O)(=O)C=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C9H6ClF3O4S
reactant | N-ethyldiisopropylamine | 6.61 mmol, 1.15 mL, 854 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | morpholine | 3.63 mmol, 317 μL, 317 mg | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-(Morpholine-4-sulfonyl)-5-trifluoromethyl-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C(F)(F)F)S(=O)(=O)N1CCOCC1)=O | C13H14F3NO5S
